US04238486
A suspension of trans-4,6,6a,8,9,10a-hexahydro-7H-indolo-[3,4 gh]-[1,4]-benzoxazine (650 mg, 0.03 m) acetaldehyde (260 mg, 0.006 m) and Pd/c (10%, 700 mg) in abs. ethanol (50 ml) is hydrogenated at room temperature for 4 hours. The catalyst is removed by filtration, and the solvent is removed under reduced pressure (20 mm). The oil is recrystallized from methanol to yield 430 mg of trans 4,6,6a,8,9,10a-hexahydro-7-ethyl-7H-indolo-[3,4 gh]-[1,4]benzoxazine, m.p. turns brown 200° melt 210°-213°.

reactant | trans-4,6,6a,8,9,10a-hexahydro-7H-indolo-[3,4 gh]-[1,4]-benzoxazine | 650 mg | C1=CC=C2NC=C3C2=C1[C@@H]1[C@H](NCCO1)C3 | C13H14N2O
reactant | acetaldehyde | 260 mg | C(C)=O | C2H4O
catalyst | Pd | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | trans 4,6,6a,8,9,10a-hexahydro-7-ethyl-7H-indolo-[3,4 gh]-[1,4]benzoxazine | 430 mg | C(C)N1CCO[C@H]2[C@H]1CC=1C3=C2C=CC=C3NC1 | C15H18N2O
